US06294531B1
a) 2-Carboxymethyl-5-methoxy-phenyl-oxy-(3-nitrobenzene)
A solution of 2-carboxymethyl-5-methoxyphenol (34.1 g, 0.187 mol), 2-nitrofluorobenzene (19.7 mL, 0.187 mol), and K2CO3 (65 g, 0.467 mol) in DMF (200 mL) was heated to 110° C. for 18 h. The solution was diluted with water (200 mL) and extracted with ethyl acetate. The ethyl acetate layer was concentrated to give the crude title compound which was used as is for the next step (57 g).

reactant | 2-carboxymethyl-5-methoxyphenol | 0.187 mol, 34.1 g | C(=O)(O)CC1=C(C=C(C=C1)OC)O | C9H10O4
reactant | 2-nitrofluorobenzene | 0.187 mol, 19.7 mL | [N+](=O)([O-])C1=C(C=CC=C1)F | C6H4FNO2
reactant | K2CO3 | 0.467 mol, 65 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | 2-Carboxymethyl-5-methoxy-phenyl-oxy-(3-nitrobenzene) | C(=O)(O)CC1=C(C=C(C=C1)OC)OC1=CC(=CC=C1)[N+](=O)[O-] | C15H13NO6
